US06093732
N-[(4-Chlorophenyl)methyl]-6-[3-(ethylthio)-1-propynyl]-8-fluoro-4-hydroxy-3-quinolinecarboxamide
A mixture of N-[(4-chlorophenyl)methyl]-8-fluoro-4-hydroxy-6-iodo-3-quinolinecarboxamide from Example No. 5 (1.5 g), propargyl ethyl sulfide (1.04 g, 10.4 mmol), copper iodide (0.125 g), and dichlorobis(triphenylphosphine)-palladium(II) (0.462 g) in diethylamine are stirred at room temperature overnight. The reaction mixture is then concentrated in vacuo, and the residue is suspended in water (100 mL) and extracted with four 50-mL portions of EtOAc. The combined organic layers are then dried over MgSO4, filtered, and concentrated in vacuo. Column chromatography (elution with 5-10%MeOH/CH2Cl2) yielded the title compound as a solid.

reactant | N-[(4-chlorophenyl)methyl]-8-fluoro-4-hydroxy-6-iodo-3-quinolinecarboxamide | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=C(C=C(C=C2C1O)I)F | C17H11ClFIN2O2
reactant | propargyl ethyl sulfide | 10.4 mmol, 1.04 g | C(C)SCC#C | C5H8S
solvent | diethylamine | C(C)NCC | C4H11N
catalyst | copper iodide | 0.125 g | [Cu](I)I
catalyst | dichlorobis(triphenylphosphine)-palladium(II) | 0.462 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-[(4-Chlorophenyl)methyl]-6-[3-(ethylthio)-1-propynyl]-8-fluoro-4-hydroxy-3-quinolinecarboxamide | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=C(C=C(C=C2C1O)C#CCSCC)F | C22H18ClFN2O2S
